data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1497,1652,[CH3:14][O:15][C:16](=[O:17])[N-:18][NH+:19]=[C:20]([CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[N:1]#[C:2][C:3]1=[C:4]([C:5]([F:6])([F:7])[F:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[N:1]#[C:2][C:3]12[C:4]([C:5]([F:6])([F:7])[F:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[C:20]([CH3:21])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[NH:19][N:18]2[C:16]([O:15][CH3:14])=[O:17],water,298.15,36.42126513866141,12.085516525506868
4538,5178,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[N:11]#[N+:12][C-:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:12]=[N:11]2,water,298.15,35.965946761088624,7.674590369871727
3768,4316,[CH3:10][C-:11]([CH3:12])[NH+:13]=[CH:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[NH:13][C:11]1([CH3:10])[CH3:12],water,298.15,18.262737338529853,-20.20986676028585
3352,3803,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[c-:11]1[nH+:12][c:13]([CH3:14])[o:15][c:16]1=[O:17]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]2([C:9]([NH:8][CH3:7])=[O:10])[NH:12][C:13]1([CH3:14])[O:15][C:16]2=[O:17],water,298.15,31.735273899553214,8.156325299991634
869,942,[CH3:13][C:14](=[O:15])[C-:16]([C:17]([CH3:18])=[O:19])[N+:20]([CH3:21])=[CH:22][C:23]#[N:24].[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[C:16]([C:14]([CH3:13])=[O:15])([C:17]([CH3:18])=[O:19])[N:20]([CH3:21])[CH:22]1[C:23]#[N:24],water,298.15,22.34293110406491,-40.748007975207145
2254,2499,[CH3:19][O:20][C:21](=[O:22])[C:23]#[N+:24][C-:25]([C:26]([CH3:27])=[O:28])[C:29]([CH3:30])=[O:31].[F:1][C:2]1([F:3])[C:4]#[C:5][C:6]([C:7]([F:8])([F:9])[F:10])([C:11]([F:12])([F:13])[F:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[F:1][C:2]1([F:3])[C:4]2=[C:5]([C:6]([C:7]([F:8])([F:9])[F:10])([C:11]([F:12])([F:13])[F:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:25]([C:26]([CH3:27])=[O:28])([C:29]([CH3:30])=[O:31])[N:24]=[C:23]2[C:21]([O:20][CH3:19])=[O:22],water,298.15,17.55560780324372,-48.27215389892057
2362,2624,[CH3:13][N+:14](=[CH:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[C-:22]([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:22]([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[N:14]([CH3:13])[CH:15]3[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,11.088698372658458,-49.03654133789512
4619,5266,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15](=[NH+:16][N-:17][C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[N:17]([C:18]([CH3:19])=[O:20])[NH:16][C:15]2([C:13]([O:12][CH3:11])=[O:14])[C:21](=[O:22])[O:23][CH3:24],water,298.15,27.772627221765298,-1.7270398556334017
1347,1477,[CH3:13][O:14][C:15](=[O:16])[N-:17][O+:18]=[N:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[N:17]([C:15]([O:14][CH3:13])=[O:16])[O:18][N:19]2[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,9.327889248485754,-42.23010962909948
4262,4876,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12]([CH3:13])=[NH+:14][C-:15]([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:16]#[N:17])([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[NH:14][C:12]2([CH3:11])[CH3:13],water,298.15,20.77458590051088,-12.325875168519184
2087,2315,[N:18]#[C:19][N-:20][O+:21]=[CH:22][c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([Br:9])([C:10]([F:11])([F:12])[F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([Br:9])([C:10]([F:11])([F:12])[F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[CH:22]([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[O:21][N:20]2[C:19]#[N:18],water,298.15,14.629105744007411,-40.706036205159
